US08357694B2
This product was synthesized as described in general procedure 2 except 4-(6-(2-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate was used instead of 4-(6-(3-bromophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate and N-methylcyclohexanamine instead of piperidine to afford 6-(2-chlorophenyl)-N-(4-(2-(cyclohexyl(methyl)amino)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride. 1H-NMR 400 MHz (CDCl3) δ 8.45 (d, J=7.8 Hz, 1H), 8.12 (s, 1H), 7.64 (d, J=8.6 Hz, 2H), 7.46-7.39 (m, 3H), 7.21-7.20 (m, 3H), 7.13 (t, J=7.4 Hz, 1H), 7.02 (d, J=7.4 Hz, 2H), 6.73 (d, J=7.8 Hz, 1H), 4.85 (t, J=2.2 Hz, 1H), 3.22-3.17 (m, 2H), 2.75-2.71 (m, 4H), 2.44-2.42 (m, 1H), 2.36 (s, 3H), 1.84-1.79 (m, 4H), 1.64-1.61 (m, 1H), 1.27-1.21 (m, 4H), 1.15-1.10 (m, 1H). LCMS m/e 523 (M+H).

reactant | 4-(6-(2-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=C(C=CC=C1)Cl)C=CC=C3 | C27H24ClN3O3S
reactant | N-methylcyclohexanamine | CNC1CCCCC1 | C7H15N
product | 6-(2-chlorophenyl)-N-(4-(2-(cyclohexyl(methyl)amino)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.ClC1=C(C=CC=C1)C1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)CCN(C)C2CCCCC2 | InChI=1S/C33H35ClN4.ClH/c1-38(26-9-3-2-4-10-26)20-19-23-15-17-25(18-16-23)36-33-35-22-24-21-30(28-12-7-8-14-31(28)34)27-11-5-6-13-29(27)32(24)37-33;/h5-8,11-18,22,26,30H,2-4,9-10,19-21H2,1H3,(H,35,36,37);1H
